US07105544B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 135 was prepared from 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.56 (dd, 1H, J=8.7, 6.3 Hz), 7.32 (s, 1H), 7.22–7.15 (m, 2H), 7.06 (dd, 1H, J=8.7, 3.0 Hz), 7.05–6.95 (m, 2H), 5.90–5.84 (m, 1H), 3.21 (q, 2H, J=5.7 Hz), 2.87–2.80 (m, 2H), 2.59–2.49 (m, 1H), 2.44 (septet, 1H, J=6.5 Hz), 2.41–2.40 (m, 2H), 2.26 (t, 2H, J=5.7 Hz), 2.19 (s, 3H), 2.04–1.96 (m, 2H), 1.93–1.85 (m, 2H), 1.82–1.71 (m, 3H), 1.64–1.48 (m, 7H), 1.17 (d, 6H, J=6.5 Hz); ESMS m/e: 542.2 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)O | C12H12ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C31H41ClFN3O2
